US05470851
8(a) 1-Ethoxycarbonyl-4-[2-(1,1-diphenylethoxy)ethyl]piperazine
A mixture of 1.8 g (9.1 mmole) of α-methylbenzhydrol, 2.0 g (9.1 mmole) of 1-(2-chloroethyl)-4-(ethoxycarbonyl)piperazine, 0.36 g (9.2 mmole) of sodium amide and 20 ml of benzene was heated under reflux overnight. At the end of this time, water was poured onto the reation mixture, and the mixture was extracted with ethyl acetate. The solvent was then removed from the mixture by distillation under reduced pressure, and the residue was subjected to column chromatography through silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, to obtain 2.5 g (yield 75%) of the title compound as an oil.

reactant | α-methylbenzhydrol | 9.1 mmole, 1.8 g | CC(C1=CC=CC=C1)(C1=CC=CC=C1)O | C14H14O
reactant | 1-(2-chloroethyl)-4-(ethoxycarbonyl)piperazine | 9.1 mmole, 2.0 g | ClCCN1CCN(CC1)C(=O)OCC | C9H17ClN2O2
reactant | sodium amide | 9.2 mmole, 0.36 g | [NH2-].[Na+]
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 1-Ethoxycarbonyl-4-[2-(1,1-diphenylethoxy)ethyl]piperazine | 2.5 g, yield 75% | C(C)OC(=O)N1CCN(CC1)CCOC(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H30N2O3
